US05273986
A solution composed of 6.57 g of bromomethyl cycloheptyl ketone, 6.24 g of (E)-3-(3-nitrophenyl)-2-propenethioamide and 100 ml of ethyl alcohol was heated to reflux for 16 hr afterwhich it was diluted with 200 ml of ice water and extracted with methylene chloride. The combined extracts were washed with saturated sodium bicarbonate, brine, dried (MgSO4) and condensed in vacuo to yield 6.17 g of (E)-4-cycloheptyl-2-[2-(3-nitrophenyl)ethenyl]thiazole; m.p. 60° C. after crystallization from ethyl ether/hexane.

reactant | bromomethyl cycloheptyl ketone | 6.57 g | C1(CCCCCC1)C(=O)CBr | C9H15BrO
reactant | (E)-3-(3-nitrophenyl)-2-propenethioamide | 6.24 g | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(N)=S | C9H8N2O2S
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | (E)-4-cycloheptyl-2-[2-(3-nitrophenyl)ethenyl]thiazole | 6.17 g | C1(CCCCCC1)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C18H20N2O2S
